Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"blood in stool"
 
Major Surgical or Invasive Procedure:
Colonoscopy
 
History of Present Illness:
Mr. ___ is a ___ male with history of HTN,
depression, who presents with 2 days bright red blood streaks 
and
clots in stools. The patient describes ___ bowel movements daily
in the last 2 days with blood. He denies bleeding apart from
bowel movements. He denies external hemorrhoids, rectal pain,
rectal itching, recent trauma to rectum. He denies nausea,
abdominal pain, diarrhea, melena. He denies lightheadedness,
dizziness, dyspnea, palpitations, fatigue. He denies fevers,
chest pain, dysuria, peripheral edema. He denies recent travel,
dietary changes, medication changes, anticoagulation, aspirin or
NSAID use, medical procedures, hospitalizations. His last
colonoscopy ___ showed internal hemorrhoids and diverticulosis.
 
Past Medical History:
HTN
Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
GEN: NAD
EYES: no conjuctival pallor
HENT: MMM
CV: RRR, no murmurs, no JVD
RESP: non-labored breathing on room air, good air entry
bilaterally, no crackles or wheezes
GI: soft, non-distended, non-tender, normal bowel sounds
GU: no suprapubic tenderness
EXT: no edema
SKIN: no rashes
NEURO: alert, oriented x4
PSYCH: calm
 
Pertinent Results:
___ 07:15AM BLOOD WBC-4.8 RBC-4.13* Hgb-12.7* Hct-39.7* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-13.0 RDWSD-45.4 Plt ___
___ 09:04AM BLOOD WBC-6.3 RBC-3.82* Hgb-11.8* Hct-36.7* 
MCV-96 MCH-30.9 MCHC-32.2 RDW-13.0 RDWSD-45.9 Plt ___ with history of diverticulosis, internal hemorrhoids, 
presented with 2 days bright red blood in stools. Bleeding 
stopped in hospital without intervention. Vitals stable, Hgb 
stable. Colonoscopy showed to active bleed, likely 
diverticulosis as bleeding source that resolved without 
intervention.
The patient had normal BP, home losartan discontinued.
The patient was stable upon discharge. The patient was advised 
to follow up with PCP. He was also advised to follow up with GI 
if slight bleeding persists. He was advised to return to ED if 
he noticed significant bleeding resumed. He was advised to avoid 
aspirin, NSAIDs, anticoagulation. Risks and benefits discussed, 
patient verbalized understanding and agreed to plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Venlafaxine XR 150 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 150 mg PO QAM  
2.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleed
diverticulosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Reason for hospitalization: lower GI bleed

Hospitalization: Colonoscopy revealed no active bleed. Bleeding 
was likely due to diverticulosis.

Instructions for after discharge:
1) STOP Losartan.
2) AVOID aspirin, advil, ibuprogen, NSAIDs.
3) Follow up with Dr. ___ care).
4) Follow up with Gastroenterology (Dr. ___ if light bleeding 
persists.
5) Call doctor sooner if you notice significant rectal bleeding 
again.

 
Followup Instructions:
___